US05969151
a) 2-Bromo-4-methoxyphenol
To a solution of 4-methoxyphenol (13.00 g, 104.84 mmol) in DMF (50 mL) was added bromine (5.40 mL, 104.84 mmol) at 0° C. The reaction was allowed to warm to room temperature. After stirring for 2 h the reaction was quenched with water and extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with brine and dried (Na2SO4). Removal of the solvent under reduced pressure gave 21.28 g of the crude title compound as a dark oil: 1H NMR (250 MHz, CDCl3) d 7.49 (b, 1H), 6.96 (d, 1H), 6.72-6.62 (m, 2H), 3.71 (s, 3H).

reactant | 4-methoxyphenol | 104.84 mmol, 13.00 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | bromine | 104.84 mmol, 5.40 mL | BrBr | Br2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-4-methoxyphenol | 21.28 g | BrC1=C(C=CC(=C1)OC)O | C7H7BrO2
